USH0001483
[Prepared of the Methyl Tosylate Quat 25940-45 From 99-2 Pre-quat and Subsequent Dilution Thereof After Ambient Storage]
To a 500 milliliter 4 neck round bottom flask equipped with a mechanical stirrer, an argon inlet and outlet on top of a water condenser, and a thermometer was charged 204.1 grams of the AB diblock copolymer toluene solution, prepared as described in Example I, and 110 grams of additional toluene solvent. This solution contains about 100 grams (49 weight percent of solids) of block copolymer of which 19.15 grams (0.1218 mole) are DMAEMA repeat units as determined by 1H-NMR. To this vigorously stirred solution at ambient temperature, about 25° C. throughout, unless otherwise noted, and under a gentle argon flow were added in one portion 20.4 grams (0.1096 mole) of methyl p-toluene sulfonate. The charged mole percent ratio of methyl p-toluene sulfonate to DMAEMA repeat units is 90 percent, thus nearly all of the DMAEMA repeat units have been targeted for conversion to the methyl p-toluene sulfonate quaternary ammonium AB diblock charge director. After about 1 hour, the internal temperature gently exothermed from 20° C. to 27° C. and then began to drop. After about 2 hours after the addition of the methyl p-toluene sulfonate, a heating mantle (set at 25 volts) was applied to the reaction vessel. An internal temperature of about 55° C. was maintained for the next 24 hours. A small aliquot (2.20 grams) of the methyl p-toluene sulfonate quaternary ammonium AB diblock charge director toluene solution was concentrated in the vacuum oven (50° to 55° C. for 28 hours at about 0.5 millimeter Hg) giving 0.78 gram of solid and establishing the solids level at 35.45 weight percent. To 6.79 grams of the 35.45 weight percent of methyl p-toluene sulfonate quaternary ammonium AB diblock charge director solution was added 198 grams of NORPAR 15™ and the mixture was rotoevaporated for about 1 hour at 50° to 60° C. at 40 to 60 millimeters Hg to remove the toluene.

reactant | DMAEMA | CC(=C)C(=O)OCCN(C)C | C8H15NO2
reactant | methyl p-toluene sulfonate | 0.1096 mole, 20.4 grams | CC=1C=CC(=CC1)S(=O)(=O)C | C8H10O2S
reactant | toluene | 110 grams | C1(=CC=CC=C1)C | C7H8
product | Methyl Tosylate | 0.78 gram | S(=O)(=O)(OC)C1=CC=C(C)C=C1 | C8H10O3S
